### ISSUE TITLE
Wiedijk #38: Arithmetic Mean - Geometric Mean Inequality

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#93]
## Wiedijk's 100 Theorems: #38 - Arithmetic Mean/Geometric Mean Inequality

**Category**: Algebra / Analysis  
**Difficulty**: Easy  
**Mathlib Status**: ✅ Available  
**Epic**: #76

---

## Statement

For non-negative real numbers $a_1, a_2, \ldots, a_n$:

$$\frac{a_1 + a_2 + \cdots + a_n}{n} \geq \sqrt[n]{a_1 \cdot a_2 \cdots a_n}$$

with equality if and only if $a_1 = a_2 = \cdots = a_n$.

### Two-Variable Case
For non-negative $a, b$:
$$\frac{a + b}{2} \geq \sqrt{ab}$$

---

## Mathlib Resources

The inequality is available in Mathlib:

```lean
theorem Real.add_pow_le_pow_mul_pow_of_sq_le_sq {a b : ℝ} (n : ℕ) 
    (ha : 0 ≤ a) (hb : 0 ≤ b) : ...

theorem Real.geom_mean_le_arith_mean2_weighted {a b w₁ w₂ : ℝ} ...

theorem Real.inner_le_nnorm_mul_nnorm ...  -- via Cauchy-Schwarz
```

### Key Imports
```lean
import Mathlib.Analysis.MeanInequalities
import Mathlib.Analysis.SpecialFunctions.Pow.Real
import Mathlib.Algebra.Order.Field.Basic
```

### Related Lemmas
- `Real.geom_mean_le_arith_mean2_weighted` - Weighted 2-variable AM-GM
- `Real.geom_mean_le_arith_mean3_weighted` - Weighted 3-variable AM-GM
- `Real.pow_arith_mean_le_arith_mean_pow` - Power mean inequality
- `sq_nonneg` - Used in elementary proofs

---

### File Structure
Create `proofs/Proofs/AMGMInequality.lean`

### Required Components

1. **Two-variable AM-GM**: The classic $(a+b)/2 \geq \sqrt{ab}$
2. **General n-variable AM-GM**: For lists/finite sequences
3. **Equality characterization**: When does equality hold?
4. **Weighted AM-GM** (optional): With positive weights summing to 1

### Suggested Structure

```lean
/-- AM-GM Inequality for two variables (Wiedijk #38).
    (a + b) / 2 ≥ √(ab) for non-negative a, b -/
theorem am_gm_two (a b : ℝ) (ha : 0 ≤ a) (hb : 0 ≤ b) :
    (a + b) / 2 ≥ Real.sqrt (a * b) := by
  have h : 0 ≤ (Real.sqrt a - Real.sqrt b) ^ 2 := sq_nonneg _
  calc (a + b) / 2 
      = (Real.sqrt a ^ 2 + Real.sqrt b ^ 2) / 2 := by simp [Real.sq_sqrt ha, Real.sq_sqrt hb]
    _ ≥ Real.sqrt a * Real.sqrt b := by nlinarith [sq_nonneg (Real.sqrt a - Real.sqrt b)]
    _ = Real.sqrt (a * b) := (Real.sqrt_mul ha b).symm

/-- AM-GM equality condition -/
theorem am_gm_two_eq_iff (a b : ℝ) (ha : 0 ≤ a) (hb : 0 ≤ b) :
    (a + b) / 2 = Real.sqrt (a * b) ↔ a = b := by
  sorry -- equality characterization
```

---

## Acceptance Criteria

- [ ] File `proofs/Proofs/AMGMInequality.lean` created
- [ ] Two-variable AM-GM theorem proven (no `sorry`)
- [ ] General n-variable version (using Finset or List)
- [ ] Equality characterization included
- [ ] Elementary proof approach (not just Mathlib wrapper)
- [ ] Comprehensive docstrings
- [ ] File registered in `proofs/Proofs.lean`
- [ ] Build passes: `cd proofs && lake build`

---

### 1. Elementary (Two Variables)
Use $(a-b)^2 \geq 0$ which expands to $a^2 - 2ab + b^2 \geq 0$

### 2. Cauchy Induction (General Case)
Prove for $n=2$, then for $n=2^k$ by induction, then extend to all $n$

### 3. Convexity
Use Jensen's inequality with the concave function $\log$

---

## Historical Context

The AM-GM inequality has ancient origins, with geometric proofs dating to Euclid. The general form was developed in the 19th century. It is fundamental to:
- Optimization problems
- Proving other inequalities
- Economics (utility theory)
- Information theory

---

## Extensions (Optional)

- **Weighted AM-GM**: $w_1 a_1 + \cdots + w_n a_n \geq a_1^{w_1} \cdots a_n^{w_n}$
- **Power Mean Inequality**: Generalization relating different means
- **Harmonic Mean**: AM ≥ GM ≥ HM chain

---

## References

- [Wiedijk's 100 Theorems](https://www.cs.ru.nl/~freek/100/)
- [Mathlib Mean Inequalities](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/MeanInequalities.html)
- [AM-GM Inequality - Wikipedia](https://en.wikipedia.org/wiki/AM%E2%80%93GM_inequality)
